US08471005B2
N-tert-Butyl-3-{2-[3-(1,4-dimethyl-3-oxo-piperazin-2-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-benzenesulfonamide was prepared from N-tert-butyl-3-(2-hydroxy-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzenesulfonamide and 3-(3-amino-phenyl)-1,4-dimethyl-piperazin-2-one in an analogous manner to Example 1061. Product isolated as a yellow foam (74 mg, 44%). LCMS (m/e) 548 (M+H); 1H-NMR (CDCl3, 400 MHz) δ 8.74 (s, 1H), 8.58 (s, 1H), 8.44 (d, 1H, J=7.9 Hz), 7.86 (d, 1H, J=7.8 Hz), 7.80 (d, 1H, J=8.2 Hz), 7.65-7.55 (m, 1H), 7.44-7.35 (m, 2H), 7.09 (d, 1H, J=7.6 Hz), 7.05 (d, 1H, J=4.8 Hz), 6.89 (s, 1H), 6.85 (d, 1H, J=4.8 Hz), 4.71 (s, 1H), 3.77-3.64 (m, 1H), 3.69 (s, 1H), 3.26-2.97 (m, 1H), 2.99 (s, 3H), 2.73-2.62 (m, 1H), 2.17 (s, 3H), 1.23 (s, 9H).

reactant | N-tert-butyl-3-(2-hydroxy-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=C2C=NC(=NN21)O | C16H18N4O3S
reactant | 3-(3-amino-phenyl)-1,4-dimethyl-piperazin-2-one | NC=1C=C(C=CC1)C1C(N(CCN1C)C)=O | C12H17N3O
product | N-tert-Butyl-3-{2-[3-(1,4-dimethyl-3-oxo-piperazin-2-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-benzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=C2C=NC(=NN21)NC2=CC(=CC=C2)C2N(CCN(C2=O)C)C | C28H33N7O3S
